US07666888B2
5-(2-Chlorophenyl)-4-{[3-(phenylsulfonyl)pyrrolidin-1-yl]carbonyl}isoxazole
The title compound was prepared from 5-(2-chlorophenyl)isoxazole-4-carboxylic acid (11.2 mg, 0.050 mmol) and 3-(benzenesulfonyl)pyrrolidine hydrochloride (12.7 mg, 0.051 mmol) as described in synthetic method C and thereafter purified by preparative HPLC method B to give a solid (13.5 mg). Calcd for C20H17ClN2O4 S: 416.0598, found 416.0591.

reactant | 5-(2-chlorophenyl)isoxazole-4-carboxylic acid | 0.050 mmol, 11.2 mg | ClC1=C(C=CC=C1)C1=C(C=NO1)C(=O)O | C10H6ClNO3
reactant | 3-(benzenesulfonyl)pyrrolidine hydrochloride | 0.051 mmol, 12.7 mg | Cl.C1(=CC=CC=C1)S(=O)(=O)C1CNCC1
product | 5-(2-Chlorophenyl)-4-{[3-(phenylsulfonyl)pyrrolidin-1-yl]carbonyl}isoxazole | ClC1=C(C=CC=C1)C1=C(C=NO1)C(=O)N1CC(CC1)S(=O)(=O)C1=CC=CC=C1 | C20H17ClN2O4S
